Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Metronidazole / Tape
 
Attending: ___.
 
Chief Complaint:
ab distension
 
Major Surgical or Invasive Procedure:
ex-lap/LOA/ileocecal bypass 

 
History of Present Illness:
Ms ___ is a ___ year old female, h/o protein losing 
enteropathy and a few recurrent ?sbos - still in question but 
resolved with conservative management. ___ comes in again with 
abdominal distension, n/v x 3 d (but none today) - inability to 
tolerate solids (which happens alot). no flatus > 24hrs (but 
says
doesnt usually pass much). A KUB was done which showed dilated 
small bowel loops and airl fluid levels.  

 
Past Medical History:
protein losing enteropathy
history SBO in ___, treated with NGT
Childbirth x8 with 5 c-sections  

 
Social History:
___
Family History:
Mother with breast cancer in her ___, died at age ___ of "old 
age", Father died of MI age ___, sister with protein losing 
enteropathy, brother with CAD
 
Physical Exam:
afebrile, VSS
NAD
RRR, CTAB
abd: soft, NT, no rebound no guarding, very distended/tympanitic
no c/c/e

 
Pertinent Results:
Admission labs:
___+
___  ___   
4.0  25  0.7  
 
ALT: 12 AP: 182 Tbili:  Alb: 3.1 
AST: 14 LDH: 166 Dbili:  TProt: 6.1 
___: 54 Lip: 65     
WBC6.6  12.6  428 HCT 39.1  
___: 12.1  PTT: 27.1  INR: 1.0  

KUB: air fluid levels and idlated SB loops

CT ___ IMPRESSION:
1. High-grade small-bowel obstruction with a transition point in 
the right pelvis, very similar in appearance to the study of 
___. Small amounts of ascites as described above.
2. Irregularity and heterogeneity of the uterus as seen on prior 
studies. This abnormality is adjacent to the area of the 
transition point mentioned in #1.
3. Increase in the size of a lobulated right lower lobe lung 
lesion.
4. Stable compression deformities of T11 and L1.
CT chest ___
IMPRESSION:
1. Two lung lesions are suspicious for malignancy, a 16-mm right 
upper lobe lesion contiguous with an area of partially-resolved 
pneumonia, unchanged since ___ and a nearly 3 cm 
subpleural right lower lobe mass increased in size slightly in 
the interim.
2. Moderate-to-severe emphysema.
3. Multifocal pneumonia substantially cleared and pleural 
effusions decreased or resolved.
4. One small liver lesion warranting ulstrasound study.

___ CXR
 In comparison with the study of ___, the degree of pulmonary 
vascular congestion has substantially decreased. Bilateral 
pleural effusions are seen, much worse on the left. Probable 
atelectatic changes at the bases, again more prominent on the 
left. There is some patchy opacification just above the minor 
fissure on the right. In view of the high fever, this could 
represent a developing pneumonia and should be carefully 
evaluated on subsequent studies.

___ KUB
Air-fluid levels are consistent with ileus; no evidence of 
complete bowel obstruction.

 
Brief Hospital Course:
The patient was admitted to Red Surgery for management of her 
SBO and abdominal pain.  The patient was initially managed 
conservatively with NGT decompression and NPO status.  The 
patient continued on TPN as she was on at home.  The patient 
failed conservative management, so the decision was made to take 
the patient to the operating room.  On ___, the patient 
underwent a laparotomy, lysis of adhesion, enterocolostomy,small 
bowel biopsy.  The patient tolerated the procedure well with no 
complications and an EBL of 100cc.  For further detail of the 
procedure please refer to the operative note.  Post operatively, 
the patient was hypotensive and started on a Neo drip, and she 
was then transfered to the TICU for further care.  On POD 2 the 
patient was febrile to 103.8 and weaned off neo.  On ___, her 
PICC was removed and TLC placed. GPC's were found in blood so 
Vanco was started.  On ___, she developed new AF w/RVR, was 
started on a dilt/lasix gtt, and an ECHO done was normal.  
Furthermore, her Ucx was positive w/Ecoli so she was started on 
cipro and later changed to Gent ___ fluoroquinolone resistance. 
On ___ the patient was transfered to the floor in fair 
condition and rate controlled.  The patient's discharge was 
delayed secondary to physical therapy concerns about the 
patient's independence status.  Furthermore, secondary to the 
patient's poor po intake, TPN was continued.  On ___ the 
patient spiked a temp to 101.5 and the CVL was d/c'd and the 
patient maintained on D10W until PICC could be placed.  On ___, 
the patient self d/c'd her PICC accidentally.  On ___ a PICC 
was replaced via ___ without complication.  Upon discharge, the 
patient was afebrile with all vitals stable other than O2 
saturation, ambulating on O2 independently, tolerating po feeds 
but still on TPN, and with pain controlled on po pain 
medication.

Physical therapy was consulted to help rehabilitate the patient. 
 The patient progressed well with physical therapy, but the 
ultimate decision was made to d/c the patient home with oxygen 
___ desaturations to the mid 80's on ambulation.  

The spiculated lung mass found on CT was refered to 
interventional pulmonology for work up and management.  The 
patient will be managed as an outpatient and will be discussed 
in ___ clinic.

 
Medications on Admission:
furosemide 40qd, TPN, mirtazipine 15mg 1.5tabs qHS

 
Discharge Medications:
1. Albuterol Sulfate 2.5 mg/3 mL Solution for Nebulization Sig: 
One (1)  Inhalation Q6H (every 6 hours) as needed.  
2. Trimethoprim-Sulfamethoxazole 160-800 mg Tablet Sig: One (1) 
Tablet PO BID (2 times a day) for 5 days.
Disp:*10 Tablet(s)* Refills:*0*
3. Mirtazapine 15 mg Tablet Sig: 1.5 Tablets PO at bedtime.  
4. Oxygen
___ LPM continuous via nasal cannula
pulse dose conserving 
Device for portability
5. TPN
Non-Standard TPN  

Volume(ml/d) 1300
Amino Acid(g/d) 65
Branched-chain AA(g/d)0 
Dextrose(g/d)  218 
Fat(g/d) 45 

Trace Elements will be added daily 
Standard Adult Multivitamins 

NaCL 80 
NaAc 20 
NaPO4 40 
KCl 50 
KAc 0 
KPO4 0 
MgS04 10
CaGluc 10

Famotidine(mg)  0
Insulin(units) 10
Zinc(mg)  10

Cycle over (hrs.) 12
Start at ___
Decrease rate to 0 (ml/h) at 0800
Stop at 0800

6. Furosemide 40 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day): Take 1 tablet twice a day for 7 days then drop it down to 
1 tablet daily.
Disp:*60 Tablet(s)* Refills:*2*
7. Diltiazem HCl 60 mg Tablet Sig: One (1) Tablet PO QID (4 
times a day).
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
SBO

 
Discharge Condition:
Fair - requiring Home O2

 
Discharge Instructions:
Please call Dr. ___ ___ or come to the 
Emergency Department if you experience any of the following:
- Fever > 101.5 or chills
- Inability to tolerate food or water
- Uncontrolled nausea or vomiting
- Increased redness or drainage from your incision site
- Uncontrolled pain
- Anything else of concern

You may leave your incision uncovered.  You may shower but do 
not soak the incision for 2 weeks.

You may resume taking your home medications. You will be given a 
prescription for bactrim.  You should take this until your 
prescription is finished.  

You will be going home on TPN as you were on before hospital 
admission.

You will also be going home on Oxygen therapy.  A visiting nurse 
___ assist you with everything.

The visiting nurses ___ replace the bandage daily for you.
 
Followup Instructions:
___